US08471005B2
To a solution of Selenium dioxide (9.4 g, 85 mmol) in 1,4-Dioxane (50.0 mL) and Water (1.70 mL, 94.4 mmol), was added 3-Nitroacetophenone (12.0 g, 72.9 mmol). The reaction mixture was refluxed for 4 hours with stirring, then taken up with EtOAc (100 mL) and washed with water (2×50 mL), brine (1×50 mL), dried over sodium sulfate, filtered and conc. in vacuo. Purification was by ISCO column chromatography (20-70% EtOAc/Hex) to afford (3-Nitro-phenyl)-oxo-acetaldehyde (9.98 g, 76%).

reactant | Selenium dioxide | 85 mmol, 9.4 g | [Se](=O)=O | O2Se
reactant | Water | 94.4 mmol, 1.70 mL | O | H2O
reactant | 3-Nitroacetophenone | 72.9 mmol, 12.0 g | CC(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C8H7NO3
reactant | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | 1,4-Dioxane | 50.0 mL | O1CCOCC1 | C4H8O2
product | (3-Nitro-phenyl)-oxo-acetaldehyde | 9.98 g, 76% | [N+](=O)([O-])C=1C=C(C=CC1)C(C=O)=O | C8H5NO4
